US07563787B2
N4-(2-methoxyethyl)-N6-(5methyl-1H-pyrazol-3-yl)-2-styrylpyrimidine-4,6-diamine
Example 163 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials cinnamonitrile, 5-methyl-1H-pyrazole-3-amine, and 2-methoxyethanamine. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | N4-(2-methoxyethyl)-N6-(5methyl-1H-pyrazol-3-yl)-2-styrylpyrimidine-4,6-diamine | COCCNC1=NC(=NC(=C1)NC1=NNC(=C1)C)C=CC1=CC=CC=C1 | C19H22N6O
